US05596126
Preparation of sec-butyl acrylate
0.9 mol (51 g) of liquid 1-butene, one mole (72 g) of acrylic acid, 11 g (8.5 % by weight/charge) of ZrSA15 and 0.018 g (250 ppm relative to the acrylic acid) of hydroquinone methyl ether, which serves as a stabilizing agent, are charged at room temperature into a stainless steel reactor with a capacity of 200 ml, fitted with a thermometer and a manometer. The reactor is closed and is immersed in an oil bath at 150° C. The reaction medium is maintained at 100° C. with stirring for four hours. The pressure falls from 10 bar at the start of the reaction to 4 bar at the end of the reaction. At the end of the reaction, the reaction mixture is cooled to room temperature. The reactor is then opened so as to degas the unreacted butene.

reactant | 1-butene | C=CCC | C4H8
reactant | acrylic acid | one mole, 72 g | C(C=C)(=O)O | C3H4O2
reactant | hydroquinone methyl ether | COC1=CC=C(O)C=C1 | C7H8O2
product | sec-butyl acrylate | C(C=C)(=O)OC(C)CC | C7H12O2
